US08026257B2
tert-Butyl 4-(((6-(4-cyanophenyl)-1-(cyclopropylmethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate.
tert-Butyl 4-(((1-(cyclopropylmethyl)-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate and tert-Butyl 4-(((1-(cyclopropylmethyl)-6-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate. 5-(Trifluoromethyl)-1H-benzo[d]imidazol-2-yl)methanol (665 mg, 1.77 mmol as TFA salt) was alkylated cyclopropylmethyl bromide following the procedure described for the synthesis of 5-Bromo-1-(cyclopropylmethyl)-1H-benzo[d]imidazol-2-yl)methanol and 6-bromo-1-(cyclopropylmethyl)-1H-benzo[d]imidazol-2-yl)methanol. After work up the crude product obtained was subjected to alkylation reaction with tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate as described in the synthesis of tert-butyl 4-(((5-bromo-1-(cyclopropylmethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate and tert-butyl 4-(((6-bromo-1-(cyclopropylmethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate. The crude product obtained was purified silica gel chromatography using a step gradient of ethyl acetate in hexane from 10% to 100%. After pooling and evaporating the fractions three major fractions were obtained. Fraction 1 (204 mg, tert-butyl 4-(((1-(cyclopropylmethyl)-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate containing phenylpiperidinyl alcohol as contaminant), Fraction 2 (513 mg, mixture of tert-butyl 4-(((1-(cyclopropylmethyl)-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate and tert-butyl 4-(((1-(cyclopropylmethyl)-6-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate and fraction 3 (tert-butyl 4-(((1-(cyclopropylmethyl)-6-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate containing more polar impurities). Fraction 1 was purified further by preparative HPLC (HPLC method 11) and tert-butyl 4-(((1-(cyclopropylmethyl)-5-(trifluoromethyl)-1 H-benzo [d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (190 mg ) was isolated as free base after extractive work up using ethyl acetate and aqueous ammonium hydroxide as described in the synthesis of 5. tert-Butyl 4-(((1-(cyclopropylmethyl)-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate: 1H NMR (500 MHz, CD3OD) δ 7.93 (s, 1 H), 7.69 (d, J=8.5 Hz, 1 H), 7.62-7.58 (m, 1 H), 7.38-7.34 (m, 2 H), 7.30 (m, 2 H), 7.20 (m, 1 H), 4.73 (s, 2 H), 3.83 (d, J=7.0 Hz, 2 H), 3.73 (m, 2 H), 3.59 (s, 2 H), 3.05 (m, 2 H), 2.20 (m, 2 H), 1.84 (m, 2 H), 1.45 (s, 9 H), 1.04 (m, 1 H), 0.52-0.46 (m, 2 H), 0.35-0.29 (m, 2 H). 19F NMR (471 MHz, CD3OD) δ −68.9, −84.5.

reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | tert-Butyl 4-(((1-(cyclopropylmethyl)-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | C1(CC1)CN1C(=NC2=C1C=CC(=C2)C(F)(F)F)COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C30H36F3N3O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(((6-(4-cyanophenyl)-1-(cyclopropylmethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | C(#N)C1=CC=C(C=C1)C=1C=CC2=C(N(C(=N2)COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)CC2CC2)C1 | C36H40N4O3
